US03935216
25.4 g (0.1 mole) of para-toluic anhydride was dissolved in 100 ml of warm nitromethane and then 9.6 g (0.1 mole) of methane sulfonic acid was added. The reaction mixture was stirred for 20 minutes and then filtered, giving 13.72 g (0.1 mole) of para-toluic acid precipitant. The reaction was quantitative, resulting in the para-toluic methane sulfonic anhydride dissolved in nitromethane.

reactant | para-toluic anhydride | 0.1 mole, 25.4 g | C1(=CC=C(C=C1)C(=O)OC(=O)C1=CC=C(C=C1)C)C | C16H14O3
reactant | methane sulfonic acid | 0.1 mole, 9.6 g | CS(=O)(=O)O | CH4O3S
solvent | nitromethane | 100 ml | [N+](=O)([O-])C | CH3NO2
product | para-toluic acid | 0.1 mole, 13.72 g | C1(=CC=C(C=C1)C(=O)O)C | C8H8O2
